US06284915B1
4′-(2-Iodoethyl)octanophenone (175 g) prepared in the step D-3 was dissolved in anhydrous tetrahydrofuran (700 ml) to obtain 4′-(2-iodoethyl)octanophenone solution. Diethyl acetamide malonate (320 g) and sodium ethylate (100 g) was dissolved in anhydrous ethanol (1050 ml), and the 4′-(2-iodoethyl)octanophenone (175 g) solution was added, and the solution was heated to reflux for 7 hours. Tetrahydrofuran was removed by distillation from the solution. The solution was poured into ice water to obtain a precipitate which was recrystallized from hexane-ethyl acetate (40:1) to obtain diethyl acetamide-2-(4-octanoyl phenyl)ethyl malonate (110 g) in the form of colorless crystal.

reactant | Diethyl acetamide malonate | 320 g | C(CC(=O)O)(=O)O.C(C)C(C(=O)N)CC
reactant | sodium ethylate | 100 g | CC[O-].[Na+]
reactant | 4′-(2-iodoethyl)octanophenone | 175 g | ICCC1=CC=C(C=C1)C(CCCCCCC)=O | C16H23IO
solvent | ethanol | 1050 ml | C(C)O | C2H6O
product | diethyl acetamide 2-(4-octanoyl phenyl)ethyl malonate | 110 g | C(C)C(C(=O)N)CC.C(CC(=O)[O-])(=O)OCCC1=CC=C(C=C1)C(CCCCCCC)=O | InChI=1S/C19H26O5.C6H13NO/c1-2-3-4-5-6-7-17(20)16-10-8-15(9-11-16)12-13-24-19(23)14-18(21)22;1-3-5(4-2)6(7)8/h8-11H,2-7,12-14H2,1H3,(H,21,22);5H,3-4H2,1-2H3,(H2,7,8)/p-1
